US06372764B1
1-Benzyl-3-(S)-(n-propanethiocarbonyl)-4-(S)-(ethoxycarbonyl)pyrrolidine
To a cooled (−78° C.) solution of 5.7 g (75.0 mmol) of propanethiol in 250 mL THF was added 34.4 mL n-butyllithium (1.6M, 55.0 mmol) and the solution was stirred for 45 min at −78° C. under nitrogen and then warmed to −10° C. To the resulting white suspension was added a solution of 9.6 g (22.0 mmol) of (S)-N-[(1-Benzyl)-4-(R)-(ethoxycarbonyl)-3-(S)-pyrrolidinylcarbonyl]-4-benzyl-2-oxazolidinone in 250 mL THF. The reaction was stirred for 30 min and then removed from the bath and allowed to warm to rt over 1 h. The clear solution was partitioned between 1.5 L of ether and 500 mL of 1M NaOH and the layers were separated. The aqueous layer was washed with ether and the combined organic fractions were washed with sat'd NCl solution, dried over MgSO4, filtered, and the filtrate was concentrated.

reactant | propanethiol | 75.0 mmol, 5.7 g | C(CC)S | C3H8S
reactant | n-butyllithium | 55.0 mmol, 1.6M, 34.4 mL | C(CCC)[Li]
reactant | (S)-N-[(1-Benzyl)-4-(R)-(ethoxycarbonyl)-3-(S)-pyrrolidinylcarbonyl]-4-benzyl-2-oxazolidinone | 22.0 mmol, 9.6 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C(=O)OCC)C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C25H28N2O5
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(S)-(n-propanethiocarbonyl)-4-(S)-(ethoxycarbonyl)pyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C(=O)OCC)C(=S)CCC | C18H25NO2S
